Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Iodine; Iodine Containing / Pollen Extracts / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
Chrons
 
Major Surgical or Invasive Procedure:
lap ileorectal anastamosis, diverting loop ileostomy

 
History of Present Illness:
___ s/p lap L colectomy for refractory Crohn's stricture, s/p 
lap completion colectomy and end ileostomy for cdiff colitis, 
now s/p lap ileorectal anastamosis, diverting loop ileostomy 
 
Past Medical History:
Crohns disease vs. UC- diagnosed in ___- initially presented
with bloody diarrhea/cramping/weight loss with initial findings
of pan-colitis.  Micro neg. 
-___ colonoscopy showed patchy ulceration- bx showed chronic
colitis- no granuolomas
-___ colonoscopy  patchy inflammation, showed stricturing in
___ ascending and transverse colon, normal TI.  started ___
-___ colonoscopy  patchy inflammation, stricturing in ___
ascending colon
- ___ SBFT - normal
- ___ colonoscopy - had to be stopped at 45 cm
due to a stricture that could not be passed with the scope
- ___ ___ stopped in  b/c of mild pancreatitis
- barium enema ___
- ___  MRCP. The pancreas appeared normal.
 
Social History:
___
Family History:
Denies any family history of inflammatory bowel disease, cancer 
or colon polyps. 
 
Physical Exam:
A and O x 3
V.S.S
RRR no m/r/g
LSCTA bilat
Soft, NT, ND, stoma with bridge, mid-line staples no s/s of 
infection
no c/c/e
 
Pertinent Results:
___ 05:30AM BLOOD WBC-11.0 RBC-4.21* Hgb-12.2* Hct-36.9* 
MCV-88 MCH-29.0 MCHC-33.1 RDW-14.0 Plt ___
___ 11:43AM BLOOD Hct-39.3*
___ 05:30AM BLOOD Glucose-93 UreaN-12 Creat-0.8 Na-141 
K-4.4 Cl-101 HCO3-33* AnGap-11
___ 11:43AM BLOOD Na-138 K-4.0 Cl-101
___ 05:30AM BLOOD Calcium-8.5 Phos-3.2 Mg-2.5
___ 11:43AM BLOOD Mg-1.8
 
Brief Hospital Course:
Mr. ___ was admitted to general surgery from the pacu. He was 
maintained as NPO with IVF/PCA/Foley. With the return of bowel 
function and flatus his diet was advanced from sips to regular, 
tolerated well. His bridge will be removed on ___ by the 
___ care RN. He was instructed on how to titrate his imodium 
to maintain ostomy output between ___ liters daily. He had an 
uncomplicated post-op course. He will follow up with Dr. ___ 
in ___ weeks. 
 
Medications on Admission:
 Citalopram 40' 
 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain for 2 weeks.
Disp:*30 Tablet(s)* Refills:*0*
3. Loperamide 1 mg/5 mL Liquid Sig: ___  PO TID (3 times a day) 
as needed for loose stool.
Disp:*90 * Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chrons

 
Discharge Condition:
Stable. 
Tolerating regular diet.
Pain well controlled with oral medications. 

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
.
Incision Care:
-Your staples will be removed at  your follow up appointment. 
-Steri-strips will be applied and will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.
.
Monitoring Ostomy output/Prevention of Dehydration:
-Keep well hydrated.
-Replace fluid loss from ostomy daily.
-Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
-Try to maintain ostomy output between 1000mL to 1500mL per day. 

-If Ostomy output >1 liter, take 4mg of Imodium, repeat 2mg with 

each episode of loose stool. Do not exceed 16mg/24 hours
.

 
Followup Instructions:
___